US05436359
2,3-Dimethoxy-6-(10-hydroxydecyl)-5-methyl-1,4-benzoquinone (338 mg, 1 mmol) was dissolved in dichloromethane (5 ml). Pyridine (0.1 ml, 1.2 mmol) followed by acetyl chlorides(0.08 ml, 1.1 mmol) was added with stirring under ice-cooling. The mixture was stirred at the same temperature for 1 hour. Water (5 ml) was added to the reaction mixture which was then stirred at room temperature for 20 minutes. Then sodium hydrosulfite (400 mg, 2.3 mmol) was added, and the mixture was stirred for 2 hours. The dichloromethane layer was separated, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was dissolved in dichloromethane (5 ml), and tert-butylchlorodiphenylsilane (550 mg, 2 mmol) was added. Then imidazole (136 mg, 2 mmol) was added under a stream of nitrogen. After stirring at 43° C. for 16 hours, the mixture was washed with water (5 ml), and the organic layer was dried over anhydrous magnesium sulfate. Concentration under reduced pressure gave crude 6-(10-acetoxydecyl)-4-tert-butyldiphenylsilyloxy-2,3-dimethoxy-5-methylphenol. The crude product was dissolved in dichloromethane (10 ml) followed by addition of methyl 1-O-trichloroacetimidoyl-2,3,4-tri-O-acetyl-α-D-glucopyranuronate (2.1 mmol), and the mixture was ice-cooled. Boron trifluoride diethyl ether (0.2 ml) was added, and the mixture was stirred at the same temperature for 30 minutes. Then water (10 ml) containing sodium bicarbonate (1 g) was added, and the mixture was stirred for 5 minutes. The dichloromethane layer was separated and concentrated under reduced pressure. To the residue were added tetrahydrofuran (15 ml), methanol (10 ml) and 1N sodium hydroxide solution (20 ml), and the mixture was allowed to react at room temperature for 40 hours. The solvent was distilled off under reduced pressure, and the residue was extracted with ether (20 ml). Then the aqueous layer was subjected to Sephadex (trade mark) LH-20 column chromatography and eluted with water. The desired fraction was lyophilized to obtain the desired compound (290 mg).

reactant | 2,3-Dimethoxy-6-(10-hydroxydecyl)-5-methyl-1,4-benzoquinone | 1 mmol, 338 mg | COC=1C(C(=C(C(C1OC)=O)C)CCCCCCCCCCO)=O | C19H30O5
reactant | Pyridine | 1.2 mmol, 0.1 ml | N1=CC=CC=C1 | C5H5N
reactant | sodium hydrosulfite | 2.3 mmol, 400 mg | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | tert-butylchlorodiphenylsilane | 2 mmol, 550 mg | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C16H19ClSi
reactant | imidazole | 2 mmol, 136 mg | N1C=NC=C1 | C3H4N2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | Water | 5 ml | O | H2O
product | 6-(10-acetoxydecyl)-4-tert-butyldiphenylsilyloxy-2,3-dimethoxy-5-methylphenol | C(C)(=O)OCCCCCCCCCCC1=C(C(=C(C(=C1O)OC)OC)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)C | C37H52O6Si
